US04996230
D. Preparation of 2-(3-hydroxyphenoxy)benzoic acid ethyl ester
A solution of 17.8 g of 2-(3-hydroxyphenoxy)benzoic acid in 250 ml of ethanol and 1 ml of sulfuric acid was heated at reflux for two days. After cooling, the mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The organic layer was dried and concentrated in vacuo. The resulting residue was purified by high pressure liquid chromatography eluting with a 0-30% ethyl acetate in hexane gradient. The appropriate fractions were combined and concentrated in vacuo to provide 16.78 g of the desired subtitled intermediate as an oil.

reactant | 2-(3-hydroxyphenoxy)benzoic acid | 17.8 g | OC=1C=C(OC2=C(C(=O)O)C=CC=C2)C=CC1 | C13H10O4
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(3-hydroxyphenoxy)benzoic acid ethyl ester | 16.78 g | C(C)OC(C1=C(C=CC=C1)OC1=CC(=CC=C1)O)=O | C15H14O4
